US06969716B2
(3-Trifluoromethylsulfanylphenyl)oxoacetaldehyde was reacted with 2,4-difluorobenzenecarboximidic hydrazide hydriodide salt (1.13 g, 3.78 mmol) using the method described in Example 1 to give 3-(2,4-difluorophenyl)-5-(3-trifluoromethylsulfanylphenyl)-[1,2,4]triazine as a yellow solid (1.0 g): δH (400 MHz, CDCl3) 7.01-7.13 (2H, m), 7.68 (1H, t, J 7.8 Hz), 7.92 (1H, d, J 7.4 Hz), 8.32-8.39 (2H, m), 8.55 (1H, s), 9.67 (1H, s); m/z (ES+) 370.

reactant | (3-Trifluoromethylsulfanylphenyl)oxoacetaldehyde | FC(F)(F)SC=1C=C(C=CC1)C(C=O)=O | C9H5F3O2S
reactant | 2,4-difluorobenzenecarboximidic hydrazide hydriodide salt | 3.78 mmol, 1.13 g | I.FC1=C(C=CC(=C1)F)C(=N)NN
product | 3-(2,4-difluorophenyl)-5-(3-trifluoromethylsulfanylphenyl)-[1,2,4]triazine | 1.0 g | FC1=C(C=CC(=C1)F)C=1N=NC=C(N1)C1=CC(=CC=C1)SC(F)(F)F | C16H8F5N3S
